US04939261
4-(Pivaloyloxymethoxycarbonyl)-2,4-(R*,R*) -dibenzylbutyryl chloride (1.2 g) in 10 ml of methylene chloride is added slowly to a solution of 1.15 g of benzyl 3-aminopropionate p-toluenesulfonic acid salt and 0.46 ml of triethylamine in 20 ml of methylene chloride. The reaction is stirred overnight at room temperature. The solution is washed with 2N hydrochloric acid, then with saturated sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated to give N-[4-pivaloyloxymethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionic acid benzyl ester.

reactant | 4-(Pivaloyloxymethoxycarbonyl)-2,4-(R*,R*) -dibenzylbutyryl chloride | 1.2 g | C(C(C)(C)C)(=O)OCOC(=O)[C@H](C[C@@H](C(=O)Cl)CC1=CC=CC=C1)CC1=CC=CC=C1 | C25H29ClO5
reactant | benzyl 3-aminopropionate p-toluenesulfonic acid salt | 1.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.NCCC(=O)OCC1=CC=CC=C1
reactant | triethylamine | 0.46 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[4-pivaloyloxymethoxycarbonyl-(R*,R*)-2,4-dibenzylbutyryl]-3-aminopropionic acid benzyl ester | C(C1=CC=CC=C1)OC(CCNC([C@H](C[C@H](CC1=CC=CC=C1)C(=O)OCOC(C(C)(C)C)=O)CC1=CC=CC=C1)=O)=O | C35H41NO7
